US07259262B2
iv) 4-{4-[2-(2-Hydroxy-ethyl)-imidazol-1-ylmethyl]-oxazol-2-yl}-phenol
A solution of 0.90 g (2.39 mmol) 2-{1-[2-(4-benzyloxy-phenyl)-oxazol-4-ylmethyl]-1H-imidazol-2-yl}-ethanol in 60 ml THF was hydrogenated for 2 hours over 250 mg 10% Pd/C at ambient temperature and pressure. After filtration, the solvent was evaporated to leave 0.55 g (80%) 4-{4-[2-(2-hydroxy-ethyl)-imidazol-1-ylmethyl]-oxazol-2-yl}-phenyl as light yellow crystals.

reactant | 2-{1-[2-(4-benzyloxy-phenyl)-oxazol-4-ylmethyl]-1H-imidazol-2-yl}-ethanol | 2.39 mmol, 0.90 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC=C(N1)CN1C(=NC=C1)CCO | C22H21N3O3
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | 4-{4-[2-(2-Hydroxy-ethyl)-imidazol-1-ylmethyl]-oxazol-2-yl}-phenol | OCCC=1N(C=CN1)CC=1N=C(OC1)C1=CC=C(C=C1)O | C15H15N3O3
